US08492401B2
A mixture of methyl 6-chloro-5-(2-nitrobenzamido)nicotinate (1 eq), P2S5 (2.1 eq), and pyridine (7.6 eq) in p-xylene was heated at 130° C. for 2 h. The clear liquid was decanted and allowed to cool to room temperature. The resultant precipitate was collected by filtration and dried to give methyl 2-(2-nitrophenyl)thiazolo[5,4-b]pyridine-6-carboxylate (57% yield).

reactant | methyl 6-chloro-5-(2-nitrobenzamido)nicotinate | 1 eq | ClC1=NC=C(C(=O)OC)C=C1NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C14H10ClN3O5
reactant | P2S5 | 2.1 eq | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | pyridine | 7.6 eq | N1=CC=CC=C1 | C5H5N
solvent | p-xylene | CC=1C=CC(=CC1)C | C8H10
product | methyl 2-(2-nitrophenyl)thiazolo[5,4-b]pyridine-6-carboxylate | 57% yield | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)C(=O)OC | C14H9N3O4S
